US06844345B2
a) (R)-6-Ethyl-4-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole
Lithium aluminium hydride (532 mg) was added in portions to a solution of (R)-6-ethyl-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one (800 mg, 3.50 mmol) in tetrahydrofuran (30 mL) and the resulting suspension was heated to reflux for 1 h. After cooling the reaction was quenched by careful addition of 1 M aqueous sodium potassium tartrate solution (50 mL). Then methanol (50 mL) and ethyl acetate (50 mL) were added, the organic layer was separated, washed with brine, dried (MgSO4), and evaporated to yield the title compound (750 mg, 100%). White solid. ISP-MS: m/e=215.3 ([M+H]t).

reactant | Lithium aluminium hydride | 532 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (R)-6-ethyl-4-methyl-3,4-dihydro-2H-pyrazino[1,2-a]indol-1-one | 3.50 mmol, 800 mg | C(C)C1=CC=CC=2C=C3N(C12)[C@@H](CNC3=O)C | C14H16N2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (R)-6-Ethyl-4-methyl-1,2,3,4-tetrahydro-pyrazino[1,2-a]indole | 750 mg, 100% | C(C)C1=CC=CC=2C=C3N(C12)[C@@H](CNC3)C | C14H18N2
